US05155272
Preparation of 2',6'-Dimethyl-N-(2-Methoxy-1-Methylethoxymethyl) 2-Chloroacetanilide
About 12.3 g (0.050 mole) of 2',6'-dimethyl-N-(chloromethyl) 2-chloroacetanilide dissolved in twenty (20) ml of ethylene dichloride was added to 22.5 g (0.25 mole) of 2-methoxy-1-methyl ethanol. The solution was allowed to stand one hour at room temperature. Excess alcohol and HCl was removed under vacuum on a rotary evaporator. The residual oil was treated with an additional 22.5 g fresh alcohol for 30 minutes at 60° C. Excess alcohol and HCl was removed as before at 65° C./1 mm Hg. The light yellow oily residue weighed 14.86 g (99.1% yield). Refractive index of the oil, n26D 1.5263. Proton NMR was consistent with structure.

reactant | 2',6'-dimethyl-N-(chloromethyl) 2-chloroacetanilide | 0.050 mole, 12.3 g | CC1=C(N(C(CCl)=O)CCl)C(=CC=C1)C | C11H13Cl2NO
reactant | 2-methoxy-1-methyl ethanol | 0.25 mole, 22.5 g | COCC(O)C | C4H10O2
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 2',6'-Dimethyl-N-(2-Methoxy-1-Methylethoxymethyl) 2-Chloroacetanilide | 99.1% yield | CC1=C(N(C(CCl)=O)COC(COC)C)C(=CC=C1)C | C15H22ClNO3
